2181-12-13 06:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   ACS
   24 Hour Events:
   Initiated on IV [**Doctor Last Name **] yesterday.  AO x 3.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2181-12-11**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2181-12-12**] 10:00 PM
   Metronidazole - [**2181-12-13**] 12:01 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2181-12-12**] 04:30 PM
   Metoprolol - [**2181-12-12**] 04:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-12-13**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 37.6
C (99.7
   HR: 85 (85 - 127) bpm
   BP: 112/45(62) {101/32(52) - 145/70(81)} mmHg
   RR: 22 (19 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,665 mL
                                                                    335 mL
   PO:
             TF:
   IVF:
                                                                  1,665 mL
                                                                    335 mL
   Blood products:
   Total out:
                                                                    955 mL
                                                                    160 mL
   Urine:
                                                                    955 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    710 mL
                                                                    175 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   GENERAL: NAD, AOX3
   HEENT: No JVD
   CARDIAC: PMI non displaced.  RRR, [**3-14**] crescendo / decrescendo murmur @
   USB, [**3-14**] HSM at apex
   LUNGS: Bibasilar rales
   ABDOMEN:  S, Mild LLQ TTP, no rebound
   EXTREMITIES: No C/C/E
   Labs / Radiology
   446 K/uL
   10.8 g/dL
   133 mg/dL
   3.0 mg/dL
   25 mEq/L
   4.2 mEq/L
   84 mg/dL
   103 mEq/L
   140 mEq/L
   31.6 %
   19.7 K/uL
        [image002.jpg]
                            [**2181-12-4**]  09:12 PM
                            [**2181-12-5**]  01:08 AM
                            [**2181-12-5**]  09:16 AM
                            [**2181-12-5**]  05:45 PM
                            [**2181-12-6**]  05:56 AM
                            [**2181-12-6**]  05:08 PM
                            [**2181-12-7**]  05:37 AM
                             [**2181-12-8**]  06:43 AM
                             [**2181-12-12**]  05:25 AM
                             [**2181-12-13**]  05:24 AM
   WBC
   13.3
   14.9
   13.9
   15.2
   13.4
   22.2
   19.7
   Hct
   31.9
   29.2
   31.3
   31.5
   31.1
   31.3
   27.8
   34.3
   31.6
   Plt
   274
   264
   255
   249
   216
   394
   446
   Cr
   3.0
   2.8
   2.7
   2.6
   2.2
   2.2
   2.6
   2.6
   3.0
   TropT
   1.41
   Glucose
   174
   186
   230
   113
   133
   140
   189
   140
   133
   Other labs:, ALT / AST:45/45, Alk Phos / T Bili:83/1.9, Amylase /
   Lipase:56/23, Lactic Acid:1.6 mmol/L, Albumin:2.8 g/dL, LDH:240 IU/L,
   Mg++:2.5 mg/dL,
   Assessment and Plan
   87 yoM w/ h/o CKD who presented with acute on chronic diastolic CHF
   exacerbation and ACS, not resolving.  Pt with resolving fevers and AMS,
   likely sec to C Diff colitis.
   .
   # C Diff:  Afebrile since 7pm last night, Tmax 102.6.   Patient started
   empirically yesterday with [**Doctor Last Name **] IV, CDiff confirmed yesterday
   evening.  BC and UCx show NGTD, WBC count decreased to 19.7 today.
   Patient AO x3.
   -          d/c Vanc/Zosyn
   -          transition to po Flagyl
   -          F/u cultures
   # Acute on chronic diastolic CHF: Resolving.  Lungs CTAB, JVD 6cm.  .
   - Will give gentle fluids as patient is not taking pos.
   - Switch IV BB to po.  Restart Statin, ASA
   - Echo to r/o vegetations.
   # Atrial Fibrillation:  Patient
s HR has been in low 100s.
   -          Restart ASA.
   -           Continue BB.
   .
   # GI bleed: Presented with Hct drop and melena but since admission and
   transfusion hct has been stable.
   -          Will contact GI and see if willing to scope tomorrow
   .
   # Acute on Chronic Renal failure: Baseline Cr 2.6, Cr 3.0 today.
   Likely secondary to pre-renal etiology.
   - Will give IVFs @ 125cc/hr, recheck lytes this PM.
   .
   .
   # DM: lantus 9uqhs.  insulin sliding scale, goal BG < 150.
   - Monitor
   .
   FEN: Will advance diet.  NPO when planned for EGD.
   ACCESS: PIV's
   PROPHYLAXIS: pneumoboots, PPI given GI bleed
   CODE: FULL code
   CONTACT: [**Name (NI) **] in law [**Doctor Last Name **] [**Telephone/Fax (1) 2272**]; Daughter [**Name (NI) 2273**] [**Telephone/Fax (1) 2274**]
   [**Name2 (NI) **]O: Pending.
           1. IV access: Peripheral line Order date: [**12-11**] @ 1246
   11. Influenza Virus Vaccine 0.5 mL IM ASDIR
   Follow Influenza Protocol Document administration in POE   Order date:
   [**12-11**] @ 1120
   2. IV access: Peripheral line Order date: [**12-11**] @ 1246
   12. Insulin SC  (per Insulin Flowsheet)
         Sliding Scale & Fixed Dose Order date: [**12-12**] @ 1557
   3. 1000 mL NS
   Continuous at 125 ml/hr for 1000 ml Order date: [**12-13**] @ 0901
   13. Ipratropium Bromide Neb 1 NEB IH Q6H  Order date: [**12-11**] @ 1246
   4. Acetaminophen 325-650 mg PO/PR Q4H:PRN  Order date: [**12-12**] @ 0538
   14. MetRONIDAZOLE (FLagyl) 500 mg PO Q8H  Order date: [**12-13**] @ 0902
   5. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN  Order date: [**12-11**] @ 1246
   15. Metoprolol Tartrate 100 mg PO BID
   Hold for SBP <100 HR <60  Order date: [**12-13**] @ 0905
   6. Aspirin 81 mg PO DAILY  Order date: [**12-13**] @ 0906
   16. Olanzapine (Disintegrating Tablet) 5 mg PO QHS:PRN  Order date:
   [**12-11**] @ 2339
   7. Atorvastatin 80 mg PO DAILY  Order date: [**12-13**] @ 0906
   17. Pantoprazole 40 mg PO Q24H  Order date: [**12-13**] @ 0909
   8. Clonidine Patch 0.3 mg/24 hr 1 PTCH TD QTHUR  Order date: [**12-11**] @
   1246
   18. Sarna Lotion 1 Appl TP [**Hospital1 **]:PRN  Order date: [**12-11**] @ 1246
   9. Clindamycin 1 Appl TP DAILY
   to back  Order date: [**12-11**] @ 2245
   19. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**12-11**] @ 1246
   10. Heparin 5000 UNIT SC TID  Order date: [**12-11**] @ 1246
   20. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**12-11**] @ 1246

2181-12-15 06:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   CT Scan:
   1. Focus of eccentric dilatation of descending colon, in the left lower
   quadrant, with asymmetrical distribution of contrast and air and
   significant fat tissue stranding, which either represents acute
   diverticulitis or perforation realted to colitis. There is currently no
   evidence of free intraperitoneal spillage or air.
   2. Second eccentric dilatation, which might be site of giant sigmoid
   diverticulum.No inflammation is seen around this and while contrast is
   seen within it it does not appear to represent an acute finding.
   3. There is no small-bowel obstruction, the dilated loops of the small
   bowel are likely due to ileus.
   4. Severe pancolitis-relative sparing proximally.
   5. Bilateral pleural effusion with some adjacent small basilar
   atelectasis, and evidence of prior asbestos exposure.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2181-12-13**] 06:00 AM
   Metronidazole - [**2181-12-15**] 04:00 AM
   Vancomycin - [**2181-12-15**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2181-12-14**] 10:00 PM
   Other medications:
   Changes to medical and family history: None
   Review of systems: Persistent LLQ abdominal pain, otherwise feels
well
, no SOB, no CP
   Flowsheet Data as of  [**2181-12-15**] 06:15 AM
   Vital signs
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.5
C (97.7
   HR: 79 (68 - 79) bpm
   BP: 160/123(131) {105/38(60) - 164/123(131)} mmHg
   RR: 20 (9 - 22) insp/min
   SpO2: 94% RA
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
                            Total In:
                                                                  2,018 mL
                                                                    437 mL
                            PO:
                                                                    125 mL
                                                                    175 mL
   TF:
   IVF:
                                                                  1,888 mL
                                                                    262 mL
   Blood products:
   Total out:
                                                                  1,193 mL
                                                                    590 mL
   Urine:
                                                                  1,193 mL
                                                                    590 mL
   Balance:
                                                                    825 mL
                                                                   -153 mL
   Physical Examination
   GENERAL: Alert and oriented, NAD
   HEENT: MMM, no JVD
   CARDIAC: RRR, SEM at USB
   LUNGS: CTAB, trace basilar crackles
   ABDOMEN:  distended, tympanic.  BS+ Tenderness most pronounced at LLQ.
   No clear rebound or guarding
   EXTREMITIES: WWP
   Labs / Radiology
   684 K/uL
   11.9 g/dL
   149 mg/dL
   2.0 mg/dL
   21 mEq/L
   4.0 mEq/L
   73 mg/dL
   110 mEq/L
   143 mEq/L
   37.5 %
   23.3 K/uL
        [image002.jpg]
                            [**2181-12-6**]  05:56 AM
                            [**2181-12-6**]  05:08 PM
                            [**2181-12-7**]  05:37 AM
                             [**2181-12-8**]  06:43 AM
                             [**2181-12-12**]  05:25 AM
                             [**2181-12-13**]  05:24 AM
                             [**2181-12-13**]  06:17 PM
                             [**2181-12-14**]  04:11 AM
                             [**2181-12-14**]  08:17 PM
                             [**2181-12-15**]  04:17 AM
   WBC
   13.9
   15.2
   13.4
   22.2
   19.7
   26.3
   24.9
   23.3
   Hct
   31.5
   31.1
   31.3
   27.8
   34.3
   31.6
   34.7
   32.6
   37.5
   Plt
   255
   249
   216
   394
   446
   517
   500
   684
   Cr
   2.6
   2.2
   2.2
   2.6
   2.6
   3.0
   2.9
   2.2
   2.2
   2.0
   Glucose
   113
   133
   140
   189
   140
   133
   142
   114
   149
   Other labs: PT / PTT / INR:15.1/31.5/1.3, CK / CKMB /
   Troponin-T:334/6/1.41, ALT / AST:45/45, Alk Phos / T Bili:83/1.9,
   Amylase / Lipase:56/23, Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL,
   LDH:240 IU/L, Ca++:8.2 mg/dL, Mg++:2.8 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   87 yoM w/ h/o CKD presents with acute on chronic diastolic CHF
   exacerbation and ACS. Likely progression of events: GIB -> Anemia ->
   Cardiac ischemia -> Tachycardia with poor diastolic filling time + 2U
   pRBC for Hct 22 in setting of chest pain -> CHF exacerbation.  Course
   complicated by severe CDiff colitis
   # CLOSTRIDIUM DIFFICILE INFECTION:
   - On exam appears stable (abdomen distended, tympanitic and tender in
   LLQ)
   - CT scans showed pancolitis and area of ? contained bowel perforation
   vs diverticulitis. Reevaluated by surgery but considered to not require
   urgent surgery as continues to be hemodynamically stable, abd pain not
   worsening and poor surgical candidate.
   - IV flagyl, PO Vanc; PR Vanco if no improvement.
   # DIASTOLIC CONGESTIVE HEART FAILURE:  Originally presented in CHF, but
   has since been improving. Has been getting IVF in setting of infection
   and hypotension, responding well with UOP.  Satting well.
   # GI BLEED: He presented with Hct drop and melena but since admission
   and transfusion Hct has been stable.
   - Will consider EGD once acute medical issues resolved.
   - protonix PO BID
   # ACUTE ON CHRONIC RENAL FAILURE: Returned to baseline of 2.2. Continue
   IVF as per adequate UOP.
   # DM: On lantus and ISS (amaryl held while NPO)
   # CAD
 s/p NSTEMI in setting of GI bleed, not cathed.
   - Medically managed with ASA, Metoprolol, Statin
   # SINUS TACHYCARDIA: Had episodes of A-fib/A-flutter (confirmed to be
   new for pt) now resolved.
   - Can restart dilt if HR control required, given diastolic CHF and
   dependency on filling time
   FEN: NPO for bowel rest
   ACCESS: PIV's
   PROPHYLAXIS: pneumoboots, PO PPI
   CODE: FULL code
   CONTACT: [**Name (NI) **] in law [**Doctor Last Name **] [**Telephone/Fax (1) 2272**]; Daughter [**Name (NI) 2273**] [**Telephone/Fax (1) 2274**]
   [**Name2 (NI) **]O: CCU
        1. Metoprolol Tartrate 100 mg PO BID Hold for SBP <100 HR <60
   9. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN
   2. Valsartan 160 mg PO DAILY Hold for SBP <100, HR <60
   10. Ipratropium Bromide Neb 1 NEB IH Q6H:PRN
   3. Aspirin 81 mg PO DAILY
   11. Olanzapine (Disintegrating) 5mg PO QHS:PRN
   4. Atorvastatin 80 mg PO DAILY
   12. Pantoprazole 40 mg PO Q24H
   5. Clonidine Patch 0.3 mg/24 hr 1 PTCH TD QTHUR
   13. Acetaminophen 325-650 mg PO/PR Q4H:
   6. Vancomycin Oral Liquid 250 mg PO Q6H Day #1 [**2181-12-13**]
   14. Insulin SC Sliding Scale & Fixed Dose
   7. MetRONIDAZOLE (FLagyl) 500 mg IV Q8H Start [**12-13**]
   15. Sarna Lotion 1 Appl TP [**Hospital1 **]:PRN
   8. Heparin 5000 UNIT SC TID
   16. Clindamycin 1 Appl TP DAILY to back

2181-12-16 06:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:  Meds changed to IV.  Scheduled for PICC today for TPN
   S: Feeling
very well,
 much improved.  No pain overnight and mild LLQ
   pain this morning.  [**4-10**] BM.  No CP, SOB, other pain or new sx.
   Tele: no sig events.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2181-12-15**] 05:01 PM
   Metronidazole - [**2181-12-15**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2181-12-15**] 10:30 PM
   Metoprolol - [**2181-12-16**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-12-16**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.8
C (96.5
   HR: 80 (64 - 84) bpm
   BP: 140/43(69) {103/32(65) - 168/69(94)} mmHg
   RR: 20 (12 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,375 mL
                                                                    126 mL
   PO:
                                                                    325 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,050 mL
                                                                     66 mL
   Blood products:
   Total out:
                                                                  1,415 mL
                                                                    345 mL
   Urine:
                                                                  1,415 mL
                                                                    345 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -40 mL
                                                                   -219 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ////
   Physical Examination
   GENERAL: Alert and oriented, NAD
   HEENT: MMM, no JVD
   CARDIAC: RRR, SEM at USB
   LUNGS: CTAB
   ABDOMEN:  distended, tympanic.  BS+ Tenderness most pronounced at LLQ.
   No clear rebound or guarding
   EXTREMITIES: WWP
   Labs / Radiology
                                     146
                               [image002.gif]
                                     114
                               [image002.gif]
                                     63
   [image004.gif]
   139
                                                                   AGap=15
   [image005.gif]
   4.5
                               [image002.gif]
                                     22
                               [image002.gif]
                                     1.7
   [image007.gif]
   Mg: 2.7
   91
                                                                      16.4
                                                            [image007.gif]
                                    12.1
   [image004.gif]
   692
                 [image008.gif]
   [image004.gif]
                                    37.7
   [image007.gif]
   PT: 16.0
   PTT: 34.2
   INR: 1.4
                            [**2181-12-6**]  05:56 AM
                            [**2181-12-6**]  05:08 PM
                            [**2181-12-7**]  05:37 AM
                             [**2181-12-8**]  06:43 AM
                             [**2181-12-12**]  05:25 AM
                             [**2181-12-13**]  05:24 AM
                             [**2181-12-13**]  06:17 PM
                             [**2181-12-14**]  04:11 AM
                             [**2181-12-14**]  08:17 PM
                             [**2181-12-15**]  04:17 AM
   WBC
   13.9
   15.2
   13.4
   22.2
   19.7
   26.3
   24.9
   23.3
   Hct
   31.5
   31.1
   31.3
   27.8
   34.3
   31.6
   34.7
   32.6
   37.5
   Plt
   255
   249
   216
   394
   446
   517
   500
   684
   Cr
   2.6
   2.2
   2.2
   2.6
   2.6
   3.0
   2.9
   2.2
   2.2
   2.0
   Glucose
   113
   133
   140
   189
   140
   133
   142
   114
   149
   Other labs: PT / PTT / INR:15.1/31.5/1.3, CK / CKMB /
   Troponin-T:334/6/1.41, ALT / AST:45/45, Alk Phos / T Bili:83/1.9,
   Amylase / Lipase:56/23, Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL,
   LDH:240 IU/L, Ca++:8.2 mg/dL, Mg++:2.8 mg/dL, PO4:3.6 mg/dL
   No new imaging or micro data.
   Assessment and Plan
   87 yoM w/ h/o CKD presented with acute on chronic diastolic CHF
   exacerbation and ACS in the setting of GI bleed, then developed C. diff
   colitis while awaiting EGD/colonoscopy.
   # CLOSTRIDIUM DIFFICILE INFECTION:  Continues to be stable to
   improving.  Abdomen distended, tympanitic and slighltly less tender in
   LLQ, WBC down and afebrile.  CT scans showed pancolitis and area of
   possible contained bowel perforation vs diverticulitis.  He was
   reevaluated by surgery but considered not to require surgery as
   continues to be hemodynamically stable, abd pain not worsening and poor
   surgical candidate.
   - IV flagyl, PO Vanc.
   - NPO
   - IV nutrition as will be NPO for several days
   # DIASTOLIC CONGESTIVE HEART FAILURE:  Originally presented in CHF, but
   has since been improving. Has been getting IVF in setting of infection
   and hypotension, responding well with UOP.  Satting well without
   crackles on exam.  Will continue to monitor with conservative fluid
   repleation as needed.
   # GI BLEED: He presented with Hct drop and melena but since admission
   and transfusion Hct has been stable.  Currently Guiac negative.
   - Will consider EGD once acute medical issues resolved.
   - protonix IV BID
   # ACUTE ON CHRONIC RENAL FAILURE: Returned to baseline of 2.2. Continue
   IVF as per adequate UOP.
   # DM: On lantus and ISS (amaryl held while NPO)
   # CAD
 s/p NSTEMI in setting of GI bleed, not cathed.
   - Medically managed with ASA, Metoprolol, Statin
   # SINUS TACHYCARDIA: Had episodes of A-fib/A-flutter (confirmed to be
   new for pt) now resolved.
   - Can restart dilt if HR control required, given diastolic CHF and
   dependency on filling time
   FEN: NPO for bowel rest.  Nutrition consult for TPN recs
   ACCESS: PIV's.  Will attempt to place PICC today for TPN.
   PROPHYLAXIS: pneumoboots, PO PPI, SQ heparin
   CODE: FULL code
   CONTACT: [**Name (NI) **] in law [**Doctor Last Name **] [**Telephone/Fax (1) 2272**]; Daughter [**Name (NI) 2273**] [**Telephone/Fax (1) 2274**]
   [**Name2 (NI) **]O: CCU
           1. IV access: Peripheral line Order date: [**12-11**] @ 1246
   12. Influenza Virus Vaccine 0.5 mL IM ASDIR
   Follow Influenza Protocol Document administration in POE   Order date:
   [**12-11**] @ 1120
   2. IV access: Peripheral line Order date: [**12-11**] @ 1246
   13. Insulin SC  (per Insulin Flowsheet)
         Sliding Scale & Fixed Dose Order date: [**12-12**] @ 1557
   3. IV access: PICC, heparin dependent Location: Left, Date inserted:
   [**2181-12-16**] Order date: [**12-16**] @ 1151
   14. MetRONIDAZOLE (FLagyl) 500 mg IV Q8H
   Start [**12-13**]  Order date: [**12-13**] @ [**2106**]
   4. Acetaminophen 325-650 mg PO/PR Q4H:PRN  Order date: [**12-12**] @ 0538
   15. Metoprolol Tartrate 20 mg IV Q4H
   Hold for HR < 60, SBP < 100  Order date: [**12-16**] @ 1416
   5. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN  Order date: [**12-11**] @ 1246
   16. Olanzapine (Disintegrating Tablet) 5 mg PO QHS:PRN  Order date:
   [**12-11**] @ 2339
   6. Aspirin 300 mg PR DAILY  Order date: [**12-15**] @ 1619
   17. Pantoprazole 40 mg IV Q24H  Order date: [**12-15**] @ 1619
   7. Clonidine Patch 0.3 mg/24 hr 1 PTCH TD QTHUR  Order date: [**12-11**] @
   1246
   18. Sarna Lotion 1 Appl TP [**Hospital1 **]:PRN  Order date: [**12-11**] @ 1246
   8. Clindamycin 1 Appl TP DAILY
   to back  Order date: [**12-11**] @ 2245
   19. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**12-11**] @ 1246
   9. Heparin 5000 UNIT SC TID  Order date: [**12-11**] @ 1246
   20. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**12-11**] @ 1246
   10. Heparin Flush (10 units/ml) 2 mL IV PRN line flush
   PICC, heparin dependent: Flush with 10mL Normal Saline followed by
   Heparin as above daily and PRN per lumen.  Order date: [**12-16**] @ 1151
   21. Vancomycin Oral Liquid 250 mg PO Q6H
   Day #1 [**2181-12-13**]  Order date: [**12-13**] @ [**2178**]
   11. IV access request: PICC Evaluate, Place Indication: TPN Urgency:
   Routine Order date: [**12-15**] @ 0931

2181-12-17 06:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2181-12-17**] 04:00 AM
   Vancomycin - [**2181-12-17**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2181-12-16**] 04:00 PM
   Metoprolol - [**2181-12-17**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-12-17**] 06:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.1
C (95.1
   HR: 74 (66 - 90) bpm
   BP: 136/49(71) {109/42(61) - 179/110(116)} mmHg
   RR: 18 (10 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                    847 mL
                                                                    450 mL
   PO:
                                                                    120 mL
                                                                     90 mL
   TF:
   IVF:
                                                                    440 mL
                                                                    110 mL
   Blood products:
   Total out:
                                                                  1,120 mL
                                                                    280 mL
   Urine:
                                                                  1,120 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -273 mL
                                                                    170 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///19/
   Physical Examination
   Labs / Radiology
   708 K/uL
   12.3 g/dL
   165 mg/dL
   1.7 mg/dL
   19 mEq/L
   4.0 mEq/L
   56 mg/dL
   119 mEq/L
   147 mEq/L
   38.4 %
   15.3 K/uL
        [image002.jpg]
                            [**2181-12-7**]  05:37 AM
                             [**2181-12-8**]  06:43 AM
                             [**2181-12-12**]  05:25 AM
                             [**2181-12-13**]  05:24 AM
                             [**2181-12-13**]  06:17 PM
                             [**2181-12-14**]  04:11 AM
                             [**2181-12-14**]  08:17 PM
                             [**2181-12-15**]  04:17 AM
                             [**2181-12-16**]  05:43 AM
                            [**2181-12-17**]  05:00 AM
   WBC
   15.2
   13.4
   22.2
   19.7
   26.3
   24.9
   23.3
   16.4
   15.3
   Hct
   31.3
   27.8
   34.3
   31.6
   34.7
   32.6
   37.5
   37.7
   38.4
   Plt
   249
   216
   394
   446
   [**Telephone/Fax (3) 2511**]
   Cr
   2.2
   2.6
   2.6
   3.0
   2.9
   2.2
   2.2
   2.0
   1.7
   1.7
   Glucose
   140
   189
   140
   133
   142
   114
   149
   139
   165
   Other labs: PT / PTT / INR:15.6/40.7/1.4, CK / CKMB /
   Troponin-T:334/6/1.41, ALT / AST:45/45, Alk Phos / T Bili:83/1.9,
   Amylase / Lipase:56/23, Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL,
   LDH:240 IU/L, Ca++:9.5 mg/dL, Mg++:2.5 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   87 yoM w/ h/o CKD presented with acute on chronic diastolic CHF
   exacerbation and ACS in the setting of GI bleed, then developed C. diff
   colitis while awaiting EGD/colonoscopy.
   # CLOSTRIDIUM DIFFICILE INFECTION:  Continues to be stable to
   improving.  Abdomen distended, tympanitic and slighltly less tender in
   LLQ, WBC down and afebrile.  CT scans showed pancolitis and area of
   possible contained bowel perforation vs diverticulitis.  He was
   reevaluated by surgery but considered not to require surgery as
   continues to be hemodynamically stable, abd pain not worsening and poor
   surgical candidate.
   - IV flagyl, PO Vanc.
   - NPO and NPR
   - IV nutrition as will be NPO for several days
   Abd distended/firm.  No pain.  active BS.  Passing mucoid stool [**4-10**]
   times/night.
   # MALNUTRITION: PICC misplaced, will be readjusted today by IR,
   meanwhile started PPN.
   # DIASTOLIC CONGESTIVE HEART FAILURE:  Originally presented in CHF, but
   has since been improving. Has been getting IVF in setting of infection
   and hypotension, responding well with UOP.  Satting well without
   crackles on exam.  Will continue to monitor with conservative fluid
   repleation as needed.
   # GI BLEED: He presented with Hct drop and melena but since admission
   and transfusion Hct has been stable.  Currently Guiac negative.
   - Will consider EGD once acute medical issues resolved.
   - protonix IV BID
   # ACUTE ON CHRONIC RENAL FAILURE: Returned to baseline of 2.2. Continue
   IVF as per adequate UOP.
   # DM: On lantus and ISS (amaryl held while NPO)
   # CAD
 s/p NSTEMI in setting of GI bleed, not cathed.
   - Medically managed with ASA, Metoprolol, Statin
   # TACHYCARDIA: Had episodes of A-fib/A-flutter (confirmed to be new for
   pt) now resolved.
   -          Can restart dilt if HR control required, given diastolic CHF
   and dependency on filling time
   # HYPERTENSION: Increased dose of Lopressor to 20mg IV q4hrs
   FEN: NPO for bowel rest.  Nutrition consult for TPN recs
   ACCESS: PIV's.  Will attempt to place PICC today for TPN.
   PROPHYLAXIS: pneumoboots, PO PPI, SQ heparin
   CODE: FULL code
   CONTACT: [**Name (NI) **] in law [**Doctor Last Name **] [**Telephone/Fax (1) 2272**]; Daughter [**Name (NI) 2273**] [**Telephone/Fax (1) 2274**]
   [**Name2 (NI) **]O: CCU
                       Active Medications [**Known lastname 2198**],[**Known firstname 2199**]
           1. Vancomycin Oral Liquid 250 mg PO Q6H Day #1 [**2181-12-13**]
           2. MetRONIDAZOLE (FLagyl) 500 mg IV Q8H Start [**12-13**]
           3. Metoprolol Tartrate 20 mg IV Q4H
           4. Clonidine Patch 0.3 mg/24 hr 1 PTCH TD QTHUR
           5. Aspirin 300 mg PR DAILY
           6. Heparin 5000 UNIT SC TID
           7. Pantoprazole 40 mg IV Q24H
           8. Sarna Lotion 1 Appl TP [**Hospital1 **]:PRN
   11. Acetaminophen325-650mg PO/PR Q4H:PRN
   9. Clindamycin 1 Appl TP DAILY to back
   12. Insulin SC  fixed and sliding sclae
   10. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN

2181-12-18 08:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   87 yoM w/ h/o CKD presented with acute on chronic diastolic CHF
   exacerbation and ACS in the setting of GI bleed, then developed C. diff
   colitis while awaiting EGD/colonoscopy.
   24 Hour Events:
   PICC readjusted by IR.  TPN started yesterday.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2181-12-17**] 12:22 PM
   Metronidazole - [**2181-12-18**] 04:11 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2181-12-18**] 04:10 AM
   Other medications:
   Clonidine patch
   ASA 81mg
   Lopressor 20mg IV q4hrs
   Pantopazole 40mg IV
   Vanco 250mg po
   Flagyl 500mg IV q8hrs
   Clindamycin TP
   Glargine/SSI
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-12-18**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.4
   HR: 76 (67 - 90) bpm
   BP: 154/57(82) {95/34(49) - 173/86(93)} mmHg
   RR: 19 (2 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,404 mL
                                                                    427 mL
   PO:
                                                                     90 mL
             TF:
   IVF:
                                                                    310 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,050 mL
                                                                    345 mL
   Urine:
                                                                  1,050 mL
                                                                    345 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    354 mL
                                                                     82 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///20/
   Physical Examination
   GEN: NAD
   HEENT: MMM, no JVD
   CV: RRR, no murmurs, quiet HS
   PULM:  CTA bilaterally
   ABD: distended, tympanitic, nontender, soft, positive BS, no guarding,
   no rebound
   EXT: distal edema, WWP, 2+ distal pulses
   NEURO: A+O x 3
   Labs / Radiology
   795 K/uL
   11.5 g/dL
   250 mg/dL
   1.6 mg/dL
   20 mEq/L
   3.8 mEq/L
   53 mg/dL
   120 mEq/L
   147 mEq/L
   35.3 %
   16.1 K/uL
        [image002.jpg]
                             [**2181-12-12**]  05:25 AM
                             [**2181-12-13**]  05:24 AM
                             [**2181-12-13**]  06:17 PM
                             [**2181-12-14**]  04:11 AM
                             [**2181-12-14**]  08:17 PM
                             [**2181-12-15**]  04:17 AM
                             [**2181-12-16**]  05:43 AM
                            [**2181-12-17**]  05:00 AM
                            [**2181-12-17**]  06:00 AM
                            [**2181-12-18**]  04:00 AM
   WBC
   22.2
   19.7
   26.3
   24.9
   23.3
   16.4
   15.3
   16.1
   Hct
   34.3
   31.6
   34.7
   32.6
   37.5
   37.7
   38.4
   35.3
   Plt
   394
   446
   517
   [**Telephone/Fax (2) 2539**]95
   Cr
   2.6
   3.0
   2.9
   2.2
   2.2
   2.0
   1.7
   1.7
   1.6
   Glucose
   140
   133
   142
   114
   149
   139
   165
   173
   250
   Other labs: Mg++:2.4 mg/dL
   Assessment and Plan
   87 yoM w/ h/o CKD presented with acute on chronic diastolic CHF
   exacerbation and ACS in the setting of GI bleed, then developed C. diff
   colitis while awaiting EGD/colonoscopy.
   # HYPERNATREMIA:  Na 147, trending upwards.  Likely secondary to being
   NPO and lack of free water in TPN.  Deficit is 2.5L.
   -          Will start patient on D5 @ 100cc/hr, for 1.5L.  Will hold if
   patient
s SBP > 160.
   # CLOSTRIDIUM DIFFICILE INFECTION:  No longer tender abdomen but still
   distended. Decreased stool frequency and volume.   Improved.
   - Not currently surgical emergency.  Surgery recommends starting po
   once patient has started to have proper BMs.  Will start Ice chips
   today.
   - IV flagyl, PO Vanc.
   - NPO and NPR
   # DIASTOLIC CONGESTIVE HEART FAILURE:  Appears euvolemic.
   - Will monitor closely as patient is receiving IVFs
   # GI BLEED: Presented with GIB, but since then has been stable, guaiac
   neg and Hct stable.
   - will defer EGD until stable
   - protonix IV BID
   # ACUTE ON CHRONIC RENAL FAILURE: Improved.  Cr 1.6.  Renal function
   better than baseline of 2.2
   # DM: On lantus and ISS (amaryl held while NPO)
   # CAD
 s/p NSTEMI in setting of GI bleed, not cathed.
   - Medically managed with ASA, Metoprolol
   # TACHYCARDIA: Had episodes of A-fib/A-flutter (confirmed to be new for
   pt) now resolved.
   - Can restart dilt if HR control required, given diastolic CHF and
   dependency on filling time
   # HYPERTENSION: SBPs have been has high as 170s.  Concern for possible
   flash pulmonary edema.
   -          Continue Lopressor to 20mg IV q4hrs
   -          Hydral prn for SBP > 160
   FEN: NPO for bowel rest.  Nutrition consult for TPN recs
   ACCESS: PIV's.  PICC for TPN
   PROPHYLAXIS: pneumoboots, PO PPI, SQ heparin
   CODE: FULL code
   CONTACT: [**Name (NI) **] in law [**Doctor Last Name **] [**Telephone/Fax (1) 2272**]; Daughter [**Name (NI) 2273**] [**Telephone/Fax (1) 2274**]
   [**Name2 (NI) **]O: CCU.  Possibly to floor if stable tomorrow.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2181-12-17**] 05:00 PM 41.[**Telephone/Fax (3) 499**] mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2181-12-17**] 08:30 AM
   PICC Line - [**2181-12-17**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: